US04236005
3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo-[1,5-a]pyrimidine-2-carbonitrile
A mixture of 4.86 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone, 50 ml. of glacial acetic and 2.66 g. of 3-aminopyrazole-4,5-dicarbonitrile is refluxed for 10 hours and the solvent removed under reduced pressure. The residue is reacted with trifluoroacetic anhydride to give the product of the example.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | 3-aminopyrazole-4,5-dicarbonitrile | NC1=NNC(=C1C#N)C#N | C5H3N5
product | 3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo-[1,5-a]pyrimidine-2-carbonitrile | C(#N)C=1C(=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F)C#N | C15H6F3N5
